US08729130B2
To a 1 L round-bottom flask, were added 4-acetamidobenzoic acid (21.7 g, 122 mmol), tert-butyl (2-aminophenyl)carbamate (23.0 g, 111 mmol), and DMF (90 mL). The mixture was stirred to dissolve under N2, before EDC (27.6 g, 144 mmol) was added in one portion. The reaction mixture was stirred for 2 h, and water (270 mL) was added and stirred for 2 h. The precipitates were filtered, washed with water (2×45 mL) and heptane (2×45 mL). The filter cake was dried at 40° C. in vacuo for 16 h to afford tert-butyl (2-(4-acetamidobenzamido) phenyl)carbamate (31.8 g, 78% yield, 90.6% HPLC purity) as a white solid.

reactant | 4-acetamidobenzoic acid | 122 mmol, 21.7 g | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | tert-butyl (2-aminophenyl)carbamate | 111 mmol, 23.0 g | NC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | DMF | 90 mL | CN(C)C=O | C3H7NO
reactant | EDC | 144 mmol, 27.6 g
solvent | water | 270 mL | O | H2O
product | tert-butyl (2-(4-acetamidobenzamido) phenyl)carbamate | 31.8 g, 78% yield | C(C)(=O)NC1=CC=C(C(=O)NC2=C(C=CC=C2)NC(OC(C)(C)C)=O)C=C1 | C20H23N3O4
